US07157447B2
(4-Fluoronaphthalen-1-yl)methanamine hydrochloride.
A solution of 1-cyano-4-fluoronapthalene (1.05 g, 6.12 mmol) and 1.5 mL of HCl (aq.) in absolute ethanol (50 mL) was stirred under a hydrogen atmosphere (balloon) with 10% palladium on carbon (0.20 g) for 16 hours. The catalyst was removed by filtration through Celite, and the filtrate concentrated under vacuum. The resulting solid was triturated with ether and collected by filtration to give the title compound (0.575 g, 44% yield) as an off white solid.

reactant | 1-cyano-4-fluoronapthalene | 6.12 mmol, 1.05 g | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | HCl | 1.5 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | (4-Fluoronaphthalen-1-yl)methanamine hydrochloride | 0.575 g, 44% yield | Cl.FC1=CC=C(C2=CC=CC=C12)CN | InChI=1S/C11H10FN.ClH/c12-11-6-5-8(7-13)9-3-1-2-4-10(9)11;/h1-6H,7,13H2;1H
